US08030317B2
5-(4-Amino-2-fluorophenylamino)-6,8-dimethylpyrido[2,3-d]pyrimidine-4,7(3H,8H)-dione (compound 9E):
3-Benzyl-5-(2-fluoro-4-nitrophenylamino)-6,8-dimethylpyrido[2,3-d]pyrimidine-4,7(3H,8H)-dione (4.1 mg, 9.42 mmol), palladium hydroxide (20% on carbon, 4 g) and ammonium formate (4 g, 63.4 mmol) were stirred in dioxane (200 mL) at 90° C. for 4 hours in a sealed pressure vessel. The suspension was filtered and the solid refluxed in DMF (20 mL) for 1 hour then filtered. This was repeated 3 times. The filtrates were combined and evaporated. The residue was dissolved in DMF (50 mL) and Quadrapure palladium scavenger (20 g) was added and the mixture stirred at 60° C. overnight. The mixture was filtered and evaporated, ether was added and a precipitate formed. This solid was filtered to give 2 g of the title compound (67%). [M+H] calc'd for C15H14FN5O2, 316; found, 316.

reactant | 3-Benzyl-5-(2-fluoro-4-nitrophenylamino)-6,8-dimethylpyrido[2,3-d]pyrimidine-4,7(3H,8H)-dione | 9.42 mmol, 4.1 mg | C(C1=CC=CC=C1)N1C=NC2=C(C1=O)C(=C(C(N2C)=O)C)NC2=C(C=C(C=C2)[N+](=O)[O-])F | C22H18FN5O4
reactant | ammonium formate | 63.4 mmol, 4 g | C(=O)[O-].[NH4+]
solvent | dioxane | 200 mL | O1CCOCC1 | C4H8O2
catalyst | palladium hydroxide | 4 g | [OH-].[Pd+2].[OH-]
product | 5-(4-Amino-2-fluorophenylamino)-6,8-dimethylpyrido[2,3-d]pyrimidine-4,7(3H,8H)-dione | 2 g, 67% | NC1=CC(=C(C=C1)NC1=C(C(N(C=2N=CNC(C21)=O)C)=O)C)F | C15H14FN5O2
